US04162246
2,2-Bis{4-[2-benzoyloxy-3-(7,7,8,9,9-pentamethyl-2,4-dioxo-1,3,8-triazaspiro[4.5]dec-3-yl)propoxy]phenyl}propane (Compound No. 45)
A mixture of 4.0 g of 2,2-bis{4-[2-hydroxy-3-(7,7,8,9,9-pentamethyl-2,4-dioxo-1,3,8-triazaspiro[4.5]dec-3-yl)propoxy]phenyl}propane obtained as described in Example 1, 4.0 g of potassium carbonate and 4.0 g of benzoic anhydride was reacted using substantially the same procedure as described in Example 13, to give the desired Compound No. 45 in the form of white crystals melting at 206°-211° C.

reactant | 2,2-bis{4-[2-hydroxy-3-(7,7,8,9,9-pentamethyl-2,4-dioxo-1,3,8-triazaspiro[4.5]dec-3-yl)propoxy]phenyl}propane | 4.0 g | OC(COC1=CC=C(C=C1)C(C)(C)C1=CC=C(C=C1)OCC(CN1C(NC2(C1=O)CC(N(C(C2)(C)C)C)(C)C)=O)O)CN2C(NC1(C2=O)CC(N(C(C1)(C)C)C)(C)C)=O | C45H66N6O8
reactant | potassium carbonate | 4.0 g | C([O-])([O-])=O.[K+].[K+]
reactant | benzoic anhydride | 4.0 g | C(C1=CC=CC=C1)(=O)OC(C1=CC=CC=C1)=O | C14H10O3
product | 2,2-Bis{4-[2-benzoyloxy-3-(7,7,8,9,9-pentamethyl-2,4-dioxo-1,3,8-triazaspiro[4.5]dec-3-yl)propoxy]phenyl}propane | C(C1=CC=CC=C1)(=O)OC(COC1=CC=C(C=C1)C(C)(C)C1=CC=C(C=C1)OCC(CN1C(NC2(C1=O)CC(N(C(C2)(C)C)C)(C)C)=O)OC(C2=CC=CC=C2)=O)CN2C(NC1(C2=O)CC(N(C(C1)(C)C)C)(C)C)=O | C59H74N6O10
